US07105533B2
To a solution of 2-bromo-1-(3-methoxy-4-pyridin-2-ylphenyl)ethanone (130 mg, 0.42 mmol) in ethanol (5 mL) was added 2-aminopyridine (40 mg, 0.42 mmol). The resulting reaction mixture was heated to reflux for 2 h and concentrated. The residue was dissolved in CH2Cl2 (20 mL) and washed with a solution of saturated aqueous NaHCO3 (3×10 mL), dried (MgSO4) and concentrated. The residue was purified by flash column chromatography on silica gel eluting with EtOAc:hexanes (1:1 to 1:0) to afford 2-(3-methoxy-4-pyridin-2-ylphenyl)imidazo[1,2-a]pyridine as a yellow solid. 1H NMR (CDCl3, 300 MHz) δ 8.72 (d, 1H), 8.13 (d, 1H), 7.75 (s, 1H), 7.91 (d, 1H), 7.87 (d, 1H), 7.75 (s, 1H), 7.70 (dd, 1H), 7.66 (d, 1H), 7.57 (dd, 1H), 7.20 (m, 2H), 6.79 (dd, 1H), 4.00 (s, 3H) ppm. MS (ESI) 302 (M)+.

reactant | 2-bromo-1-(3-methoxy-4-pyridin-2-ylphenyl)ethanone | 0.42 mmol, 130 mg | BrCC(=O)C1=CC(=C(C=C1)C1=NC=CC=C1)OC | C14H12BrNO2
reactant | 2-aminopyridine | 0.42 mmol, 40 mg | NC1=NC=CC=C1 | C5H6N2
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-(3-methoxy-4-pyridin-2-ylphenyl)imidazo[1,2-a]pyridine | COC=1C=C(C=CC1C1=NC=CC=C1)C=1N=C2N(C=CC=C2)C1 | C19H15N3O
